US04567184
3-(2-Phenylethyl)hexanophenone
This compound was prepared by the catalytic reduction (H2, 10% Pd-C, ethanol) of either trans-3-hexanoyl stilbene, cis-3-hexanoyl stilbene or, 3-hexanoyl diphenyl acetylene in nearly quantitative yield.

reactant | trans-3-hexanoyl stilbene | C(CCCCC)(=O)C=1C=C(C=CC1)\C=C\C1=CC=CC=C1 | C20H22O
reactant | cis-3-hexanoyl stilbene | C(CCCCC)(=O)C=1C=C(C=CC1)\C=C/C1=CC=CC=C1 | C20H22O
product | 3-(2-Phenylethyl)hexanophenone | quantitative yield | C1(=CC=CC=C1)CCC(CC(=O)C1=CC=CC=C1)CCC | C20H24O
